US07276612B2
To a suspension of methyl 4-(2-amino-ethoxy)benzoate hydrochloride (0.232 g, 1 mmol) in THF (6 ml) was added benzoyl chloride (0.140 g, 1 mmol) followed by triethylamine (0.121 g, 1.2 mmol). The reaction mixture was stirred for 1 h and then diluted with ethyl acetate. The organic layer was washed with 0.5 M aqueous HCl, saturated sodium bicarbonate solution, and brine. The organic layer was concentrated in vacuo to give methyl 4-(2-benzenecarbonylamino-ethoxy)benzoate which was directly used in the next step.

reactant | methyl 4-(2-amino-ethoxy)benzoate hydrochloride | 1 mmol, 0.232 g | Cl.NCCOC1=CC=C(C(=O)OC)C=C1
reactant | benzoyl chloride | 1 mmol, 0.140 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 1.2 mmol, 0.121 g | C(C)N(CC)CC | C6H15N
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(2-benzenecarbonylamino-ethoxy)benzoate | C1(=CC=CC=C1)C(=O)NCCOC1=CC=C(C(=O)OC)C=C1 | C17H17NO4
